US04514573
To a pyridine solution (30 ml) containing 1-naphthylmethylamine (5.0 g) cooled on an ice bath was added dropwise with stirring trifluoroacetic anhydride (7.0 ml) over a period of 30 minutes. After the completion of the dropwise addition, the mixture was stirred while cooling for 1 hour and further stirred at room temperature overnight (about 16 hours). The reaction liquid was poured in water (200 ml) and then extracted with ethyl acetate. The extract was washed with water, 5% hydrochloric acid, 3% sodium hydrogen carbonate, water and saturated saline in that order, dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain crude N-trifluoroacetyl-1-naphthylmethylamine (8.2 g) as yellow crystal.

reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-naphthylmethylamine | 5.0 g | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | trifluoroacetic anhydride | 7.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | 200 ml | O | H2O
product | N-trifluoroacetyl-1-naphthylmethylamine | 8.2 g | FC(C(=O)NCC1=CC=CC2=CC=CC=C12)(F)F | C13H10F3NO
